US04290971
12.8 g (0.05 M) of N-phenyl-N'-benzoyl-thiourea, 5.3 g (0.038M) of potassium carbonate, 4.7 ml (0.075 M) of methyliodide and 200 ml of acetone are boiled in a reflux and constantly mixed for five hours. After cooling the sediment is filtered. The filtrate is washed with 150 ml of water. The separated sediment is ground and filtered. 12.4 g (93.3% of the theoretical yield) of N-phenyl-N'-benzoyl-S-methylisothiourea with a melting point of 78°-94° are obtained. After recrystallization twice from ethanol and ethylacetate 7.4 g (54.8 % of the raw one) of product with a melting temperature of 102°-104° C. are obtained.

reactant | N-phenyl-N'-benzoyl-thiourea | 0.05 M, 12.8 g | C1(=CC=CC=C1)NC(=S)NC(C1=CC=CC=C1)=O | C14H12N2OS
reactant | potassium carbonate | 0.038M, 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 0.075 M, 4.7 ml | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-phenyl-N'-benzoyl-S-methylisothiourea | C1(=CC=CC=C1)NC(SC)=NC(C1=CC=CC=C1)=O | C15H14N2OS
